US03953436
7-(2-phenyl-2-carboxyacetamido)-3-methoxycarbonyl3-cephem-4-carboxylic acid disodium salt.
Benzhydryl 7-(2-phenyl-2-tert-butoxycarbonylacetamido)-3-methoxycarbonyl-3-cephem-4-carboxylate (0.257 g., 0.399 mmol.) was dissolved in 40 ml. 97-100% formic acid and allowed to react for 1 hour at room temperature. The reaction mixture was evaporated to dryness to give a residue which was dissolved in ethyl acetate and extracted with sodium bicarbonate solution. The aqueous extracts were combined, layered with cold ethyl acetate, and acidified with cold 1N.HCl. The organic layer was separated, washed with brine and dried (Na2SO4). Evaporation to dryness gave 0.209 g. of acid which was dissolved in 40 ml. ethanol and treated with 2 equivalents of sodium 2-ethylhexanoate. The solution was evaporated in vacuo until a precipitate was noted. The solution was placed in the refrigerator overnight and filtered to give 27 mg. of the disodium salt: nmr (acetone-d6) 3.75 (m, 5, CO2CH3, C2 --H), 4.85 (2-s, 1, side chain CH), 5.17, 5.28 (2-d, 1, J = 5.0 Hz, C6 --H), and 5.92 ppm (q, 1, J = 5.0 Hz and 9.0 Hz, C7 --H).

reactant | Benzhydryl 7-(2-phenyl-2-tert-butoxycarbonylacetamido)-3-methoxycarbonyl-3-cephem-4-carboxylate | 0.399 mmol, 0.257 g | C1(=CC=CC=C1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C(=O)OC)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C(=O)OC(C)(C)C | C35H34N2O8S
reactant | formic acid | C(=O)O | CH2O2
reactant | sodium 2-ethylhexanoate | 2 equivalents | C(C)C(C(=O)[O-])CCCC.[Na+]
reactant | disodium | [Na][Na] | 2Na
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | C(C)O | C2H6O
product | 7-(2-phenyl-2-carboxyacetamido)-3-methoxycarbonyl3-cephem-4-carboxylic acid disodium salt | [Na+].[Na+].C1(=CC=CC=C1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C(=O)OC)C(=O)[O-])C1=O)C(=O)O.C1(=CC=CC=C1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C(=O)OC)C(=O)[O-])C1=O)C(=O)O | InChI=1S/2C18H16N2O8S.2Na/c2*1-28-18(27)9-7-29-15-11(14(22)20(15)12(9)17(25)26)19-13(21)10(16(23)24)8-5-3-2-4-6-8;;/h2*2-6,10-11,15H,7H2,1H3,(H,19,21)(H,23,24)(H,25,26);;/q;;2*+1/p-2/t2*10?,11?,15-;;/m11../s1
